US08303844B2
A solution of 50.0 g (0.26 mol) of 2,3-difluorophenylacetyl chloride in 100 ml of dichloromethane is slowly added to a suspension of 71.5 g (0.53 mol) of aluminium(III) chloride in 300 ml of dichloromethane at −20° C. After 30 min at this temperature, trimethylsilylacetylene is metered in, and the mixture is stirred for 30 min. The batch is added to ice-water and acidified using hydrochloric acid. The organic phase is separated off, and the aqueous phase is extracted with ethyl acetate. The combined organic phases are washed successively with sat. sodium hydrogencarbonate soln. and sat. sodium chloride soln. The solution is dried using sodium sulfate and evaporated to dryness. The residue is purified by column chromatography (SiO2, n-heptane:ethyl acetate=9:1), giving 7,8-difluoro-3-trimethylsilanylnaphthalen-2-ol as a brown oil.

reactant | 2,3-difluorophenylacetyl chloride | 0.26 mol, 50.0 g | FC1=C(C=CC=C1F)CC(=O)Cl | C8H5ClF2O
reactant | aluminium(III) chloride | 0.53 mol, 71.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 7,8-difluoro-3-trimethylsilanylnaphthalen-2-ol | FC1=CC=C2C=C(C(=CC2=C1F)O)[Si](C)(C)C | C13H14F2OSi
